US07863271B2
A suspension of (R)-4-benzyl-3-((tert-butyldimethylsilyloxy)methyl)morpholine (576 mg, 1.79 mmol) and 10% palladium on carbon in EtOAc (20 mL) was placed in a Parr shaker and hydrogenated at 45 psi hydrogen pressure for 48 h. The heterogeneous mixture was filtered through a pad of diatomaceous earth, washed with CH3OH (200 mL) and concentrated to provide (R)-3-((tert-butyldimethylsilyloxy)methyl)morpholine (414 mg, quant.) as a colorless oil. MS consistent.

reactant | (R)-4-benzyl-3-((tert-butyldimethylsilyloxy)methyl)morpholine | 1.79 mmol, 576 mg | C(C1=CC=CC=C1)N1[C@H](COCC1)CO[Si](C)(C)C(C)(C)C | C18H31NO2Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (R)-3-((tert-butyldimethylsilyloxy)methyl)morpholine | 414 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H]1NCCOC1 | C11H25NO2Si
